US05234946
Production of (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-ethyl-3-[3-(1-pyrrolyl)benzoylamino]benzylamine (compound 204)
83 mg of (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-ethyl-3-aminobenzylamine and 100 mg of 3-(1-pyrrolyl)benzoic acid were dissolved in a mixture of 1 ml of methylene chloride and 2 ml of tetrahydrofuran, and 92 mg of N,N'-dicyclohexylcarbodiimide (DCC) was added. The mixture was stirred at room temperature for 3 hours. The reaction mixture was evaporated under reduced pressure, and the residue was dissolved in methylene chloride. The insoluble material was separated by filtration, and washed successively with a 5% aqueous solution of sodium hydrogen carbonate, 5% hydrochloric acid and a saturated aqueous solution of sodium chloride. It was dried over anhydrous sodium sulfate, and the solvent was evaporated. The residue was purified by silica gel column chromatography [Wakogel C-200, 20 g; eluting solvent: hexane/-ethyl acetate =10/1 → 3/1] to give 98 mg (yield 61%) of the captioned compound as a pale yellow oil.

reactant | (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-ethyl-3-aminobenzylamine | 83 mg | CC(C#C/C=C/CN(CC)CC1=CC(=CC=C1)N)(C)C | C18H26N2
reactant | 3-(1-pyrrolyl)benzoic acid | 100 mg | N1(C=CC=C1)C=1C=C(C(=O)O)C=CC1 | C11H9NO2
reactant | N,N'-dicyclohexylcarbodiimide | 92 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-ethyl-3-[3-(1-pyrrolyl)benzoylamino]benzylamine | 98 mg, yield 61% | CC(C#C/C=C/CN(CC)CC1=CC(=CC=C1)NC(C1=CC(=CC=C1)N1C=CC=C1)=O)(C)C | C29H33N3O
